US07521461B2
Methyl 2-[(4-{2-[[2-(4-chlorophenyl)ethyl](heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate (0.112 g, 0.209 mmol) was dissolved in EtOH (5 ml, 95%) and potassium hydroxide (0.018 g, 0.313 mmol) was added. The reaction was performed in an single node microwave oven (7 min, 150 deg). Workup was by removing the solvent by evaporation and addition of HCl (2 ml, 1 M). The water-phase was extracted with two portions of EtOAc (20 ml) and the organic phase was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). The solvent was removed by evaporation to give 0.006 g of 2-[(4-{2-[[2-(4-chlorophenyl)ethyl](heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid (yield 5.5%). 1HNMR (Rotamers, 300 MHz, CDCl3): δ 0.85 (t, 3H), 1.22 (m, 8H), 1.39 (m, 2H), 2.62-3.7 (bm, 8H), 5.45-5.55 (m, 2H), 6.89-7.43 (bm, 9H), 7.52 (m, 1H), 7.78 (t, 1H), 8.13 (t, 1H).

reactant | Methyl 2-[(4-{2-[[2-(4-chlorophenyl)ethyl](heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate | 0.209 mmol, 0.112 g | ClC1=CC=C(C=C1)CCN(C(CC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CCCCCCC | C32H38ClNO4
reactant | potassium hydroxide | 0.313 mmol, 0.018 g | [OH-].[K+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-[(4-{2-[[2-(4-chlorophenyl)ethyl](heptyl)amino]-2-oxoethyl}phenoxy)methyl]benzoic acid | 0.006 g, yield 5.5% | ClC1=CC=C(C=C1)CCN(C(CC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)=O)CCCCCCC | C31H36ClNO4
